US05183820
6-Fluoro-2,3,4,5-tetrahydro-2-[(5-methyl-1H-imidazol-4-yl)methyl]-5-(2-propynyl)-1H-pyrido[4,3-b]indol-1-one maleate
A stirred solution of 6-fluoro-2,3,4,5-tetrahydro-2-[[5-methyl-1-(triphenylmethyl) -1H-imidazol-4-yl]methyl]-1H-pyrido[4,3-b]indol-1-one (228 mg) in dry acetone (40 ml) and anhydrous potassium carbonate (116 mg) was treated with propargyl bromide (10% v/v solution in dry acetone; 1 ml) and heated at reflux overnight. After cooling, excess acetone was removed in vacuo, and the residue was partitioned between water (100 ml) and ethyl acetate (100 ml). The organic phase was washed with water (2×50 ml) and the combined aqueons extracts were washed with ethyl acetate (50 ml). The combined organic extracts were then concentrated in vacuo, and the residue was dissolved in a mixture of water (10 ml), glacial acetic acid (10 ml) and THF (15 ml) and heated to reflux for 2 h. The cooled solution was then basified with 2N sodium hydroxide (ca. 100 ml) and extracted with ethyl acetate (2×100 ml). The combined, dried organic extracts were adsorbed onto silica and purified by FCC eluting with System A (100:8:1) to give the free base of the title compound (95 mg). This was dissolved in the minimum hot dry methanol, and maleic acid (32 mg) was added. The solution was heated and then left to cool. Ether was added to precipitate the title compound (80 mg), m.p. 123°-124°.

reactant | 6-fluoro-2,3,4,5-tetrahydro-2-[[5-methyl-1-(triphenylmethyl) -1H-imidazol-4-yl]methyl]-1H-pyrido[4,3-b]indol-1-one | 228 mg | FC1=CC=CC=2C3=C(NC12)CCN(C3=O)CC=3N=CN(C3C)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3 | C35H29FN4O
reactant | potassium carbonate | 116 mg | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 1 ml | C(C#C)Br | C3H3Br
reactant | acetone | 40 ml | CC(=O)C | C3H6O
product | 6-Fluoro-2,3,4,5-tetrahydro-2-[(5-methyl-1H-imidazol-4-yl)methyl]-5-(2-propynyl)-1H-pyrido[4,3-b]indol-1-one maleate | 95 mg | C(\C=C/C(=O)O)(=O)O.FC1=CC=CC=2C3=C(N(C12)CC#C)CCN(C3=O)CC=3N=CNC3C | InChI=1S/C19H17FN4O.C4H4O4/c1-3-8-24-16-7-9-23(10-15-12(2)21-11-22-15)19(25)17(16)13-5-4-6-14(20)18(13)24;5-3(6)1-2-4(7)8/h1,4-6,11H,7-10H2,2H3,(H,21,22);1-2H,(H,5,6)(H,7,8)/b;2-1-
